US07517988B2
5-Methoxybenzofuran-2-carboxylic acid (5.04 g, 26 mmol) was weighed into a 200 ml round bottom flask fitted with a stir bar, septum and nitrogen inlet. Anhydrous MeOH (50 ml) was added under nitrogen atmosphere. The solution was cooled in an ice bath and thionyl chloride (2.3 ml, 32 mmol) was added dropwise with vigorous stirring. After stirring for 72 h at room temperature, the reaction mixture was poured into water (150 ml) and the white solid was collected. The solid was dissolved in toluene (100 ml) and the solution was washed with 1M NaHCO3 and brine and dried over MgSO4. Removal of the organic layer provided 5-methoxybenzofuran-2-carboxylic acid methyl ester as a white solid (5.15 g).

reactant | 5-Methoxybenzofuran-2-carboxylic acid | 26 mmol, 5.04 g | COC=1C=CC2=C(C=C(O2)C(=O)O)C1 | C10H8O4
reactant | MeOH | 50 ml | CO | CH4O
reactant | thionyl chloride | 32 mmol, 2.3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | water | 150 ml | O | H2O
product | 5-methoxybenzofuran-2-carboxylic acid methyl ester | 5.15 g | COC(=O)C=1OC2=C(C1)C=C(C=C2)OC | C11H10O4
